US08871756B2
Methyl 4-aminopyridine-3-carboxylate
A mixture of compound 4-aminopyridine-3-carboxylic acid (100 g, 0.7 mol) and concentrated sulfuric acid (400 g, 4.0 mol) in absolute methanol (1.5 L) was stirred under reflux for 24 hours. The reaction mixture was concentrated in vacuo. The residue was diluted with ice-water (800 mL), basified with 2 N of aqueous solution of sodium hydroxide to about pH 10 and then extracted with ethyl acetate (300 mL×3). The combined organic layers were washed with water (500 mL), dried over sodium sulfate and concentrated in vacuo to afford the crude product, which was used for next step without further purification.

reactant | 4-aminopyridine-3-carboxylic acid | 0.7 mol, 100 g | NC1=C(C=NC=C1)C(=O)O | C6H6N2O2
reactant | sulfuric acid | 4.0 mol, 400 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 1.5 L | CO | CH4O
product | Methyl 4-aminopyridine-3-carboxylate | NC1=C(C=NC=C1)C(=O)OC | C7H8N2O2
